US08470831B2
(1) (E)-3-(3-Hydroxy-4-methoxy-phenyl)-N-naphthalen-1-yl-acrylamide
A suspension of (E)-3-(3-acetoxy-4-methoxy-phenyl)-N-naphthalen-1-yl-acrylamide (254 mg, 0.70 mmol) in a mixture of MeOH (4.5 mL) and 50%w/w aqueous NaOH (74 μL) was heated under stirring for 40 min at the reflux temperature. The mixture was then concentrated under reduced pressure to give a light yellow oil that was taken up and triturated with 4 mL of aqueous HCl 0.5N. After filtration and drying 213 mg of the title (E)-3-(3-hydroxy-4-methoxy-phenyl)-N-naphthalen-1-yl-acrylamide were obtained as a white powder.

reactant | (E)-3-(3-acetoxy-4-methoxy-phenyl)-N-naphthalen-1-yl-acrylamide | 0.70 mmol, 254 mg | C(C)(=O)OC=1C=C(C=CC1OC)/C=C/C(=O)NC1=CC=CC2=CC=CC=C12 | C22H19NO4
reactant | NaOH | 74 μL | [OH-].[Na+]
solvent | MeOH | 4.5 mL | CO | CH4O
product | (E)-3-(3-Hydroxy-4-methoxy-phenyl)-N-naphthalen-1-yl-acrylamide | OC=1C=C(C=CC1OC)/C=C/C(=O)NC1=CC=CC2=CC=CC=C12 | C20H17NO3
